US09371336B2
Part 2: Preparation of t-butyl 2-(4-chlorobenzo[d]thiazol-2-yl)acetate
A 1-Liter, 3-necked round bottomed flask fitted with a nitrogen inlet, a 500 mL addition funnel and a septum stopper was charged with t-butyl acetate (26.8 mL, 200 mmol) and anhydrous THF (50 mL). Upon cooling in a dry ice-acetone bath, to the mixture was added lithium bis(trimethylsilyl)amide (1M, THF solution) (200 mL, 200 mmol) via syringe over 15 min. After stirring at that temperature for 30 minutes, to the mixture was added a solution of 2,4-dichloro-benzothiazole (8.15 g, 40 mmol) in THF (100 mL) from the addition funnel over 15 minutes. The cooling bath was removed allowing the reaction to warm to room temperature over 1 hour. The reaction mixture was concentrated, then diluted with EtOAc and a saturated NaHCO3 solution. The organic layer was separated and the aqueous layer was extracted with EtOAc twice. The combined organic layer was dried over anhydrous sodium sulfate, filtered, concentrated and purified by column chromatography on silica gel eluting with a gradient mixture of EtOAc/hexanes to give 11.28 g (99%) of the title compound as a yellow solid. 1H-NMR (500 MHz, DMSO-d6) δ (ppm) 8.00 (1H, dd, J=1.0, 8.0 Hz), 7.53 (1H, dd, J=1.0, 8.0 Hz), 7.36 (1H, t, J=8.0 Hz), 4.19 (2H, s), 1.38 (9H, s).

reactant | t-butyl acetate | 200 mmol, 26.8 mL | C(C)(=O)OC(C)(C)C | C6H12O2
reactant | lithium bis(trimethylsilyl)amide | 200 mmol, 1M, 200 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | 2,4-dichloro-benzothiazole | 40 mmol, 8.15 g | ClC=1SC2=C(N1)C(=CC=C2)Cl | C7H3Cl2NS
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | t-butyl 2-(4-chlorobenzo[d]thiazol-2-yl)acetate | 11.28 g, 99% | ClC1=CC=CC2=C1N=C(S2)CC(=O)OC(C)(C)C | C13H14ClNO2S
